US07696223B2
c) 7-Benzyloxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester
A mixture of 7-benzyloxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester (165 mg, 0.32 mmole), piperidine (95 μl, 0.96 mmole) and triethylamine (89 μl, 0.64 mmole) in ethanol (1.6 ml) was heated at 130° C. in a CEM microwave synthesizer for 30 min before it was cooled to room temperature, concentrated and purified by flash column chromatography on silica gel with a gradient of ethyl acetate and hexanes to give the title compound as a green oil (24 mg). MS: (+) m/z 474.55 (M+1).

reactant | 7-benzyloxy-4-iodo-2-phenyl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 0.32 mmole, 165 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)I)N=C(S2)C2=CC=CC=C2)OCC2=CC=CC=C2 | C22H17IN2O3S
reactant | piperidine | 0.96 mmole, 95 μl | N1CCCCC1 | C5H11N
reactant | triethylamine | 0.64 mmole, 89 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1.6 ml | C(C)O | C2H6O
product | 7-Benzyloxy-2-phenyl-4-piperidin-1-yl-thiazolo[4,5-c]pyridine-6-carboxylic acid ethyl ester | 24 mg | C(C)OC(=O)C1=C(C2=C(C(=N1)N1CCCCC1)N=C(S2)C2=CC=CC=C2)OCC2=CC=CC=C2 | C27H27N3O3S
